Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Amitriptyline / Norvasc
 
Attending: ___.
 
Chief Complaint:
Hypotension, tachycardia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old male with CAD, s/p stenting, 
paroxysmal atrial flutter, DM2, and PVD, recently admitted for 
failure to thrive, who was found  to be tachycardiac and 
hypotensive, reportedly 90/p.  He was given his usual dose of 
metoprolol prior to presenting to the ED.  
   
In the emergency department triage vitals were T 97.8, BP 
128/61, HR 144, RR 16, O2 sat 98% on room air.  Evaluation was 
remarkable for a negative CXR, positive UA, ___ EKG with likely 
atrial flutter, repeat EKG NSR with PACs, unchanged from prior, 
Troponin 0.02.  The patient received 1L NS, insulin regular 8 
units sc, and cipro 400mg IV for a UTI.  
  
On arrival to the floor the patient states that he does not know 
why he has a foley catheter in place and is somewhat distressed 
to be back in the hospital.  He states that the foley bag became 
disconnected several times at home.  He has tried to increase 
his PO intake and states that his caretaker has been 
consistently on his case about this and has also been adding a 
small amount of salt to his no salt ___, making it more 
palatable.  He is concerned that his caretaker may be feeling 
overwhelmed with the task of caring for him.  He has had ___ 
visit his home, but has only done a set of chair-based exercises 
once since then. 
  
Regarding specific symptoms, he endorses constipation and states 
that he has not had a BM since leaving the hospital.  Otherwise, 
he denies any other symptoms, including no fevers, chills, 
nausea, vomiting, cough, chest pain, shortness of breath, 
abdominal pain, flank pain, or diarrhea.  The remainder of the 
ROS is otherwise negative.
  
 
Past Medical History:
# CAD s/p PCI x 2 with a history of MI and angioplasty ___ years 
ago. His most recent cardiac catheterization was in ___ at ___ which revealed non-flow 
limiting three-vessel disease and no intervention was performed 
at that time  
# Atrial flutter/atrial tachycardia status post ablation in 
___ with breakthrough atrial tachycardia and atrial 
flutter  
# DM type II c/b neuropathy  
# PVD followed by Dr. ___  
# Colon Ca -- s/p partial colectomy ___, no radiation or 
chemotherapy  
# Neuropathy -- progressing to R arm now; legs unchanged, uses 
wheelchair  
# Spinal stenosis -- MRI performed ___, no emergent issues, 
but  
some retrolisthesis of L4-5, status post laminectomy at L4-L5.  
# Alcohol abuse  
 
Social History:
___
Family History:
No history of premature cardiac disease. 
 
Physical Exam:
VITAL SIGNS: T 99.2 BP 130/80 HR 61 RR 18 O2 sat 100% 2L NC, ___ 
309  
GENERAL: cahchectic, appears older than stated age, pleasant, 
alert, in NAD  
HEENT: Normocephalic, atraumatic. No conjunctival pallor. No 
scleral icterus. PERRLA/EOMI. MMM. OP clear. Neck Supple, No 
LAD, No thyromegaly.  
CARDIAC: Regular rate, irregular rhythm (likely PACs). Normal 
S1, S2. No murmurs, rubs or ___. JVP flat  
LUNGS: CTAB, no wheezes, rales, or rhonchi
ABDOMEN: NABS. Soft, NT, ND. No HSM  
EXTREMITIES: No edema, muscle atrophy present, 2+ dorsalis 
pedis pulses bilaterally.  Special shoe on left foot.
SKIN: No rashes  
NEURO: A&Ox3. Does not recall some information discussed on 
prior admission.  CN ___ grossly intact. Decreased sensation in 
lower extremities.  4+/5 strength throughout.  Reflexes 1+ 
throughout.
 
Pertinent Results:
Admission Labs:
___ 12:00PM BLOOD WBC-11.6* RBC-4.21* Hgb-12.3* Hct-36.6* 
MCV-87 MCH-29.2 MCHC-33.5 RDW-16.8* Plt ___
___ 12:00PM BLOOD Neuts-74.0* ___ Monos-2.7 Eos-1.9 
Baso-0.3
___ 12:00PM BLOOD Glucose-361* UreaN-16 Creat-0.6 Na-134 
K-4.0 Cl-99 HCO3-25 AnGap-14
___ 12:00PM BLOOD CK(CPK)-27*
___ 12:00PM BLOOD CK-MB-NotDone cTropnT-0.02*
___ 12:00PM BLOOD Calcium-8.4 Phos-3.6 Mg-1.8
___ 12:00PM BLOOD Digoxin-0.6*
___ 04:12PM BLOOD Lactate-1.3
___ 02:10PM URINE Color-Amber Appear-Cloudy Sp ___
___ 02:10PM URINE Blood-LG Nitrite-POS Protein-30 
Glucose-1000 Ketone-15 Bilirub-NEG Urobiln-1 pH-5.0 Leuks-SM
___ 02:10PM URINE RBC->50 WBC->50 Bacteri-MANY Yeast-NONE 
___ 02:10PM URINE CaOxalX-OCC
   
Studies:
___ ECG - Probable atrial flutter. Left axis deviation may 
be due to left anterior fascicular block. Non-specific ST-T wave 
abnormalities. Since the previous tracing of ___ probable 
atrial flutter is now present. 
   
___ ECG - Sinus rhythm with atrial premature beats. Low limb 
lead QRS voltage. Borderline left axis deviation. Modest ST-T 
wave changes. Findings are non-specific. Since the previous 
tracing of ___ probable atrial flutter is now absent.  
  
___ CXR - SINGLE FRONTAL VIEW OF THE CHEST: The lungs are 
clear without focal consolidation, pleural effusion, or 
pneumothorax. There is no pulmonary edema. The heart size is 
normal. Minimal calcification is noted in the aortic arch. 
  
IMPRESSION: No acute cardiopulmonary process. 
  
___ CXR PA & LAT - FINDINGS: In comparison with the study of 
___, there is no interval change.  Hyperexpansion of the lungs 
is consistent with chronic pulmonary disease, though there is no 
evidence of acute focal pneumonia. No vascular congestion or 
pleural effusion. 
  

 
Brief Hospital Course:
Mr. ___ is a ___ year old male with a history of CAD, s/p 
stenting, paroxysmal atrial flutter, DM2, and PVD, recently 
admitted for failure to thrive, who was brought to the ED for 
hypotension and tachycardia, and found to have a UTI.
   
#. Urinary Tract Infection: The patient's UA was suggestive of a 
UTI, likely related to an indwelling foley placed because of 
urinary retension on the patient's prior admission.  Based on 
history from the patient, it likely became infected at home.  
Foley catheter was removed when the patient arrived on the 
floor.  He was empirically treated with ciprofloxacin with a 
plan for a 7 day course of therapy.  
  
#. Atrial flutter with RVR: The patient's tachycardia and 
hypotension at home was most likely the result of atrial flutter 
with RVR.  He was reported given his usual metoprolol dose 
without resolution of the tachycardia, but he was normotensive 
on arrival to the ED.  The patient was monitored on telemetry 
and triggered on the floor the morning following admission for 
another episode of RVR that resolved within an hour of his 
receiving metoprolol.  The patient is usually assymptomatic with 
these episodes, but did report feeling palpitations with his 
morning episode in the hospital.  The patient's cardiologist, 
Dr. ___ was contacted and the patient's regimen was 
discussed.  He advised not changing the patient's digoxin and 
metoprolol regimen at this time.  If the patient develops atrial 
flutter at home, he should take his metoprolol early and if his 
heart rate does not decrease within an hour of taking the 
medication, or if he becomes markedly symptomatic, he should 
come to the ED.
   
#. Urinary retention: The patient was started on tamsulosin for 
urinary retention.  The foley catheter was removed and he 
successfully voided.  He was advised to keep his urology 
___ appointment so that they could determine whether he 
needs to continue taking this medication and to further evaluate 
the patient for hematuria which was noted during his prior 
hospitalization.  The patient was also given medications to 
prevent constipation as he had been constipated prior to 
entering the hospital and constipation can exacerbate urinary 
retention.  
      
#. Dementia: The patient likely has some underlying dementia 
given his inability to remember extensive discussions regarding 
the foley catheter on his prior admission.  Work-up on last 
admission showed atrophy of medulla and upper cervical spine, 
thought to be secondary to chronic alcohol use.  He has 
behavioral neurology ___ as an outpatient in ___.
    
#. Depression: The patient appeared notably depressed the 
morning following admission.  It was unclear to what extent this 
was triggered by poor sleep the night before versus being an 
ongoing problem for this gentleman.  Of note, his duloxetine was 
stopped on his previous admission as it may have contributed to 
his hyponatremia.  His PCP may wish to consider starting the 
patient on mirtazepine or another medication that is both an 
anti-depressant and appetite stimulant.
   
#. Left foot fractures: The patient was found to have ___ 
through ___ metatarsal fractures on his prior admission.  His 
caregiver reported an incident at home in which the patient had 
tried to walk.  The patient was reminded not to place weight on 
his foot to allow it to heal.  He was continued on calcium and 
vitamin D supplementation. 
  
#. Diabetes, type 2: The patient's blood sugar was elevated on 
admission.  This may be due to increased PO intake.  Glargine 
was left at prior home dose due to concern for hypoglycemia at 
home.  He was given a diabetic diet.
    
#. Anemia: Labs during the patient's prior hospitalizations 
suggested that this was related to iron deficiency.  B12 and 
folate were normal.  The patient was continued on iron sulfate 
BID and given a bowel regimen to help prevent constipation.
  
#. Coronary artery disease: Stable. The patient had non-flow 
limiting 3VD on cath in ___.  He was ___ on this admission.  
He was continued on aspirin, atorvastatin, plavix, and 
metoprolol.
    
#. History of hyponatremia: Notably, the patient's sodium level 
was normal on this admission.
  
#. Neuropathy: The patient was continued on gabapentin.  
  
FEN: Cardiac, diabetic diet, honey thickened liquids, sugar free 
shakes TID with meals; folic acid, B-vitamin, multivitamin 
supplements
  
DISPOSITION: Home.  This was discussed at length with the 
patient and his caregiver.  The patient emphatically desired to 
return to home.  As it was only a vital sign abnormality due to 
ongoing atrial flutter with RVR that brought him into the 
hospital, and not further failure to thrive, it was decided to 
honor his wishes.  

 
Medications on Admission:
1. Atorvastatin 40 mg daily
2. Aspirin 325 mg daily
3. Clopidogrel 75 daily
4. Digoxin 125 mcg daily
5. Gabapentin 300 mg PO Q8H
6. Folic Acid 1 mg daily
7. Albuterol 90 mcg IH Q6H prn
8. Ferrous Sulfate 325 mg PO BID
9. B Complete 1 tab daily
10. Calcium 500 With D 500 mg(1,250mg) -400 unit, 1 tab BID
11. Insulin Glargine 6 units QAM
12. Insulin Lispro 100 QIDACHS: as per sliding scale.  
13. Multivitamin 1 tablet daily
14. Metoprolol Tartrate 75 mg Q8H 
 
Discharge Medications:
1. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours) for 6 days.
Disp:*12 Tablet(s)* Refills:*0*
2. Atorvastatin 40 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
3. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
4. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Digoxin 125 mcg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

6. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO Q8H (every 
8 hours).  
7. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

8. Albuterol 90 mcg/Actuation Aerosol Sig: ___  Inhalation every 
six (6) hours as needed for shortness of breath or wheezing.  
9. B Complex Vitamins     Capsule Sig: One (1) Cap PO DAILY 
(Daily).  
10. Calcium Carbonate 500 mg Tablet, Chewable Sig: Two (2) 
Tablet, Chewable PO BID (2 times a day).  
11. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
12. Insulin Glargine 100 unit/mL Solution Sig: Six (6) units 
Subcutaneous QAM.  
13. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO BID (2 times a day).  
14. Tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO HS (at bedtime).
Disp:*30 Capsule, Sust. Release 24 hr(s)* Refills:*2*
15. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).
Disp:*60 Capsule(s)* Refills:*2*
16. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.
Disp:*60 Tablet(s)* Refills:*0*
17. Metoprolol Tartrate 25 mg Tablet Sig: Three (3) Tablet PO Q 
8H (Every 8 Hours).  
18. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses:
1. Atrial flutter with rapid ventricular rate
2. Urinary Tract Infection
  
Secondary Diagnoses:
1. Failure to thrive
2. Coronary artery disease
3. Diabetes mellitus, type 2

 
Discharge Condition:
Vital signs stable, afebrile, heart rate in the ___.

 
Discharge Instructions:
You were brought to the hospital because of a fast heart rate.  
Your heart rate improved with medication.  You were also found 
to have a urinary tract infection that is now being treated with 
the antibiotic ciprofloxacin.  It is important that you finish 
taking all of this medication to treat the infection.  
  
You were also started on a new medication, tamsulosin (flomax), 
to help you urinate.  Please ___ with the urologist as 
previously scheduled to determine if you still need to take this 
medication.
  
You have also been given prescriptions for medications to help 
prevent constipation.
  
The following changes were made to your medications:
1. Please take ciprofloxacin 500 mg every 12 hours for the next 
6 days.
2. Please take tamsulosin 0.4 mg at bedtime to help with 
urination.
3. Docusate (colace) 100 mg twice a day to soften stools.
4. Senna 1 tablet up to twice a day as needed for constipation.
 
Please call your physician if you have another episode of a fast 
heart rate that does not improve an hour after taking your 
metoprolol.
  
Please call your physician or return to the hospital if you have 
chest pain, lightheadedness, shortness of breath, low back pain, 
or other concerning symptoms.
 
Followup Instructions:
___